Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fatigue, eyes lids lower than usual
 
Major Surgical or Invasive Procedure:
___
Sternotomy, resection of thymoma

 
History of Present Illness:
Ms. ___ is a ___ yo female,
never smoker, with a 6 cm mass in the right anterior lung/right
mediastinum, which was found on CXR. This was biopsied on
___ and pathology revealed type B1 thymoma. She had a 
chest
MRI on ___, which again showed an 8 x 6.5 x 6 cm 
non-invasive
right of midline anterior mediastinal thymoma of multiple
internal cystic areas. She was referred for evaluation and
management.  The thymoma was initially observed in ___ when
the patient was traveling to ___ and had a routine checkup
with CXR.  

The patient reports that she feels well.  She does report
that her eyes do not open as much as they used to.  She also has
increased fatigue, but this is not debilitating.  She is able to
engage in her normal daily activities.  She has some mild
shortness of breath when lying down.  She denies any fevers,
chills, weight loss, night sweats, cough, chest pain, difficulty
swallowing, or double vision. 

 
Past Medical History:
PAST MEDICAL HISTORY:
HLD
cataracts
borderline HTN

SURGICAL HISTORY:
cataract surgery
hemorrhoid surgery
varicose vein surgery

 
Social History:
___
Family History:
Mother
Father 
___ - younger sister - some type of intestinal cancer, CVA
Offspring
Other
 
Physical Exam:
Temp 98.2    HR 61     BP 141/90    RR 16    O2 sat 100%RA
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[ ] Palate symmetric  [x] Neck supple/NT/without mass
[ ] Trachea midline [ ] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [ ] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [ ] No JVD   [ ] PMI nl  [x] No edema
[ ] Peripheral pulses nl    [ ] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [ ] No mass/HSM   [ ] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[ ] Strength intact/symmetric    [ ] Sensation intact/ symmetric
[ ] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[ ] Cranial nerves intact   [ ] Abnormal findings:

MS         
[ ] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[ ] No tenderness  [ ] Tone/align/ROM nl   [ ] Palpation nl
[ ] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [ ] Axillary nl
[ ] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
Mild interstitial edema and mild cardiomegaly are new.  No 
pneumothorax or 
pleural effusion.  Normal postoperative appearance to the upper 
mediastinum.  
Opac a reasonably well-defined 5 cm high spherical opacity 
alongside the left of the lower thoracic spine, obscuring the 
descending thoracic aorta, is presumably atelectasis.  Follow-up 
is advised.  No pneumothorax or pleural effusion. 

                    WBC  RBC   Hgb  Hct  MCV MCH  MCHC  RDW 
RDWSD Plt Ct 
___ 05:31    8.9 3.89* 11.0* 34.7  89 28.3 31.7* 13.4 
43.4 193 
 
                 Glucose UreaN Creat  Na  K  Cl HCO3 AnGap 
___ 05:31    ___  135 4.9 98  27  10 
 
 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a sternotomy and resection of 
a thymoma. She tolerated the procedure well and returned to the 
PACU in stable condition. She maintained stable hemodynamics and 
her pain was controlled with IV Tylenol. Her chest tubes drained 
a modest amount of thin, bloody fluid and had no air leak.

Following transfer to the Surgical floor she progressed well.  
Her chest tubes were removed on post op day #1 and her post pull 
chest xray showed no pneumothorax but significant atelectasis.  
She was encouraged to increase her use of the incentive 
spirometer and increase her activity. Her oxygen was gradyally 
weaned off with room air saturations of (5%.  Her sternum was 
stable and her sternal wound was healing well.  She had a 
surgical bra in place to prevent any tension on her sternal 
wound and sternal precautions were also reviewed on multiple 
occasions.

She developed some nausea and vomiting after taking some 
Oxycodone and her pain regimen was changed to Tylenol and 
Toradol which was effective. She will use Ibuprofen at home for 
pain unrelieved by Tylenol. She was up and walking independently 
and voiding sufficiently following Foley catheter removal.

As she continued to progress well, she was discharged to home on 
___ with ___ services for nursing evaluation and will 
follow up with Dr. ___ in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*1 
4.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation - First Line 
 
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Thymoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for surgery to remove your 
thymus cland and you've recovered well. You are now ready for 
discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Maintain sternal precautions as reviewed with your nurse.

* You can use the surgical bra that you have on or use your own 
bra if its more comfortable for you. Keep it on 24 hrs a day for 
the first 2 weeks, may remove for showering. This helps to keep 
less tension off your breastbone to facilitate healing.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed tomorrow.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving for 4 weeks or while taking narcotic pain 
medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**
 
Followup Instructions:
___